US05840732
ii) Synthesis of 5-[3-(2-methoxyphenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 1.40 g (3.0 mmol) of 5-[3-(2-methoxyphenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione, 1.0 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring, after which the solvent was distilled off, to yield 1.22 g (80.4%, white oily substance) of the desired product.

reactant | 5-[3-(2-methoxyphenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 3.0 mmol, 1.40 g | COC1=C(C=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C24H25N3O3S2
reactant | hydrochloric acid ethyl acetate | 4N, 1.0 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-[3-(2-methoxyphenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.COC1=C(C=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C24H25N3O3S2.ClH/c1-30-19-10-3-2-8-18(19)9-6-11-20-23(28)27(24(29)32-20)15-4-5-17-31-22-13-7-12-21-25-14-16-26(21)22;/h2-3,7-8,10-14,16H,4-6,9,15,17H2,1H3;1H
